US06949648B2
[4-Chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]phenylmethanone
A solution of 4-hydroxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid (2.0 g, 7.4 mmol) in phosphorous oxychloride (19 mL, 200 mmol) was heated and stirred at 100° C. for 1.5 hours. After the solution was cooled to room temperature, the solvent was evaporated under reduced pressure. The residue was dissolved in tetrahydrofuran (50 mL) and cooled to −78° C. To the solution, a solution of phenylmagnesium bromide (1M tetrahydrofuran solution, 30 mL, 30 mmol) was added dropwise at the same temperature, and the mixture was stirred for 1 hour, and at room temperature further for 0.5 hour. The mixture was poured into an aqueous saturated ammonium chloride solution and organic matter was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. Purification of the residue by silica gel chromatography (hexane:chloroform:ethyl acetate=2:1:1 to 1:1:1) gave the title compound (0.83 g, 38% yield).

reactant | 4-hydroxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid | 7.4 mmol, 2.0 g | OC1=C2C(=NC=C1C(=O)O)N(N=C2C)C2=NC=CC=C2 | C13H10N4O3
reactant | phosphorous oxychloride | 200 mmol, 19 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phenylmagnesium bromide | 30 mmol, 1M, 30 mL | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
product | [4-Chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]phenylmethanone | 0.83 g, 38% yield | ClC1=C2C(=NC=C1C(=O)C1=CC=CC=C1)N(N=C2C)C2=NC=CC=C2 | C19H13ClN4O
